US09126931B2
3-Bromo-8-(4-hydroxy-tetrahydro-furan-3-yl oxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, tetrahydro-furo[3,4-d][1,3,2]dioxathiol 2,2-dioxide (71.5 mg, 0.420 mmol) was dissolved in DMF (1.40 mL), added with 3-bromo-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound A5-1, 50.0 mg, 0.140 mmol) and cesium carbonate (228 mg, 0.700 mmol), and stirred at 80° C. for 15 hr. Subsequently, sulfuric acid (0.10 mL, 18 M), THF (3.00 mL) and water (0.50 mL) were added to the mixture, which was then stirred at room temperature for 24 hr and further at 60° C. for 24 hr. The reaction solution was added to water, extracted with ethyl acetate, washed with water, saturated aqueous solution of sodium bicarbonate, and saturated brine, and dried over sodium sulfate. After filtering and concentration under reduced pressure, the resulting residues were washed with dichloromethane and purified by NH silica gel column chromatography (ethyl acetate/THF) to obtain the target compound (44.7 mg, 72%).

reactant | tetrahydro-furo[3,4-d][1,3,2]dioxathiol 2,2-dioxide | 0.420 mmol, 71.5 mg | O1S(OC2C1COC2)(=O)=O | C4H6O5S
reactant | 3-bromo-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.140 mmol, 50.0 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)O)=O | C18H14BrNO2
reactant | cesium carbonate | 0.700 mmol, 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sulfuric acid | 18 M, 0.10 mL | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 1.40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 0.50 mL | O | H2O
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
product | 3-Bromo-8-(4-hydroxy-tetrahydro-furan-3-yl oxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 44.7 mg, 72% | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC4COCC4O)=O | C22H20BrNO4
